US08748432B2
To a suspension of (2-(5-methyl-3-trifluoromethyl-pyrazol-1-yl)-1-[4-(3-nitro-phenyl)-piperazin-1-yl]-ethanone (1.03 g, 2.59 mmol) in ethanol (50 mL) is added 10% Pd/C (100 mg). The reaction mixture is stirred under hydrogen (1 atm) for 2 h, and then filtered over Celite, washed with ethanol, and evaporated under pressure to give 1-[4-(3-amino-phenyl)-piperazin-1-yl]-2-(5-methyl-3-trifluoromethyl-pyrazol-1-yl)-ethanone (0.95 g, 99%). 1H-NMR (400 MHz, DMSO-d6): δ=2.21 (s, 3H), 3.01-3.09 (m, 2H), 3.11-3.18 (m, 2H), 3.53-3.69 (m, 4H), 4.90 (br, 2H), 5.30 (s, 2H), 6.06-6.11 (m, 1H), 6.13-6.20 (m, 2H), 6.50 (s, 1H), 6.85-6.91 (m, 1H). MS: m/z=368 (M+1).

reactant | 2-(5-methyl-3-trifluoromethyl-pyrazol-1-yl)-1-[4-(3-nitro-phenyl)-piperazin-1-yl]-ethanone | 2.59 mmol, 1.03 g | CC1=CC(=NN1CC(=O)N1CCN(CC1)C1=CC(=CC=C1)[N+](=O)[O-])C(F)(F)F | C17H18F3N5O3
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 1-[4-(3-amino-phenyl)-piperazin-1-yl]-2-(5-methyl-3-trifluoromethyl-pyrazol-1-yl)-ethanone | 0.95 g, 99% | NC=1C=C(C=CC1)N1CCN(CC1)C(CN1N=C(C=C1C)C(F)(F)F)=O | C17H20F3N5O
